### PR TITLE
doc: add doc-string for LawfulMonad/Applicative

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: src/Init/Control/Lawful/Basic.lean [hunk 1]
```diff
@@ -12,6 +12,11 @@ open Function
 @[simp] theorem monadLift_self [Monad m] (x : m α) : monadLift x = x :=
   rfl
 
+/--
+The `Functor` typeclass only contains the operations of a functor.
+`LawfulFunctor` further asserts that these operations satisfy the laws of a functor,
+including the preservation of the identity and composition laws.
```
Comment (digama0) [inline src/Init/Control/Lawful/Basic.lean:18]:
````suggestion
including the preservation of the identity and composition laws:
```
id <$> x = x
(h ∘ g) <$> x = h <$> g <$> x
```
````

File: src/Init/Control/Lawful/Basic.lean [hunk 2]
```diff
@@ -24,6 +29,10 @@ attribute [simp] id_map
 @[simp] theorem id_map' [Functor m] [LawfulFunctor m] (x : m α) : (fun a => a) <$> x = x :=
   id_map x
 
+/--
+The `Applicative` typeclass only contains the operations of an applicative functor.
+`LawfulApplicative` further asserts that these operations satisfy the laws of an applicative functor.
```
Comment (digama0) [inline src/Init/Control/Lawful/Basic.lean:34]:
````suggestion
`LawfulApplicative` further asserts that these operations satisfy the laws of an applicative functor:
```
pure id <*> v = v
pure (·∘·) <*> u <*> v <*> w = u <*> (v <*> w)
pure f <*> pure x = pure (f x)
u <*> pure y = pure (· y) <*> u
```
````
The laws here are based on the Haskell docs. It would be nice to have something here that looks more like the monoid laws.

File: src/Init/Control/Lawful/Basic.lean [hunk 3]
```diff
@@ -42,6 +51,13 @@ attribute [simp] map_pure seq_pure
 @[simp] theorem pure_id_seq [Applicative f] [LawfulApplicative f] (x : f α) : pure id <*> x = x := by
   simp [pure_seq]
 
+/--
+The `Monad` typeclass only contains the operations of a monad.
+`LawfulMonad` further asserts that these operations satisfy the laws of a monad,
+including associativity and identity laws for `bind`.
```
Comment (digama0) [inline src/Init/Control/Lawful/Basic.lean:57]:
````suggestion
including associativity and identity laws for `bind`:
```
pure x >>= f  =  f x
x >>= pure  =  x
x >>= f >>= g  =  x >>= (fun x => f x >>= g)
```
````

**Review by digama0 — APPROVED** [review]
